US04880809
A mixture of 1-(3,4,5-trimethoxybenzoyl)piperazine (2.0 g), a Lawesson reagent [2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphethane-2,4-disulfide] (2.9 g) and benzene (20 ml) is heated for 30 minutes under reflux. 1N HCl (100 ml) and ethyl acetate are added to the reaction mixture. The mixture is shaken. The aqueous layer is separated, and treated with an aqueous solution of sodium hydroxide to make the system alkalline, followed by extraction with methylene chloride. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is recrystallized from methylene chloride to give 1-(3,4,5-trimethoxythiobenzoyl)piperazine as pale yellow crystals (1.3 g), m.p. 116°-118° C.

reactant | 1-(3,4,5-trimethoxybenzoyl)piperazine | 2.0 g | COC=1C=C(C(=O)N2CCNCC2)C=C(C1OC)OC | C14H20N2O4
reactant | Lawesson reagent | 2.9 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | HCl | 1N, 100 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,4,5-trimethoxythiobenzoyl)piperazine | 1.3 g | COC=1C=C(C(=S)N2CCNCC2)C=C(C1OC)OC | C14H20N2O3S
